US08283354B2
N (2 carbamoylphenyl)-2-chloro-6-methoxybenzamide (13 g, 42.7 mmol) was suspended in 100 mL of a 2 N NaOH solution and heated to reflux. After refluxing for 3 hours, another 25 mL of a 2 N NaOH solution was added, and the reaction was refluxed for another hour. The mixture was cooled to room temperature and acidified with acetic acid to pH 5. The formed precipitate was collected by filtration. The product was purified over alumina using EtOAc as an eluent giving 1.7 g (5.9 mmol, 14%) of 2-(2-chloro-6-methoxy-phenyl)-3H-quinazolin-4-one.

reactant | (2 carbamoylphenyl)-2-chloro-6-methoxybenzamide | 42.7 mmol, 13 g | C(N)(=O)C1=C(C=CC=C1)C=1C(=C(C(=O)N)C(=CC1)OC)Cl | C15H13ClN2O3
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-chloro-6-methoxy-phenyl)-3H-quinazolin-4-one | 5.9 mmol, 1.7 g, 14% | ClC1=C(C(=CC=C1)OC)C1=NC2=CC=CC=C2C(N1)=O | C15H11ClN2O2
